US09290451B2
6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid pyridin-2-ylamide
The title compound was synthesized in analogy to Example 1, using 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5) and 2-pyridinamine (CAN 504-29-0) as starting materials, MS (D) m/e: 310.0 [M+H]+.

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | 2-pyridinamine | N1=C(C=CC=C1)N | C5H6N2
product | 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid pyridin-2-ylamide | N1=C(C=CC=C1)NC(=O)C1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C17H12ClN3O
